US07301036B2
Step A. 5,6-Dichloro-N-[4-(methoxy)phenyl]-1H-benzimidazol-2-amine
To a solution of 4-anisidine (6.5 mmol, 800 mg) and DIEA (7.2 mmol, 1.24 mL) in CH2Cl2 (10 mL) cooled to 0° C. was added thiophosgene (6.5 mmol, 500 μL) dropwise. The solution was allowed to reach ambient temperature for 1 h, and 4,5-dichloro-1,2-phenylenediamine (6.5 mmol, 1.15 g) was added to the reaction. The reaction mixture was heated at 40° C. for 16 h, and MeI (7.2 mmol, 445 μL) and DIEA (7.2 mmol, 1.24 μL) were added. The reaction was heated at 40° C. for 8 h, and allowed to stand at ambient temperature for 16 h. Aqueous workup with CH2Cl2/brine, followed by flash chromatography on silica eluting with 4% MeOH in CH2Cl2 afforded the product as a brown oil. LC-MS (ESI, Method B): 1.62 min, m/z 308.2 (M+1).

reactant | 4-anisidine | 6.5 mmol, 800 mg | COC1=CC=C(C=C1)N | C7H9NO
reactant | DIEA | 7.2 mmol, 1.24 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | thiophosgene | 6.5 mmol, 500 μL | C(=S)(Cl)Cl | CCl2S
reactant | 4,5-dichloro-1,2-phenylenediamine | 6.5 mmol, 1.15 g | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | MeI | 7.2 mmol, 445 μL | CI | CH3I
reactant | DIEA | 7.2 mmol, 1.24 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | CH2Cl2 brine | C(Cl)Cl.[Cl-].[Na+].O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | 5,6-Dichloro-N-[4-(methoxy)phenyl]-1H-benzimidazol-2-amine | ClC1=CC2=C(NC(=N2)NC2=CC=C(C=C2)OC)C=C1Cl | C14H11Cl2N3O
